US04025637
Phenyl acetyl chloride (28.0 g.) was added over 20 minutes to a cooled stirred solution of 2-(3-amino-4-hydroxyphenyl) propionitrile (29.0 g.) in anhydrous pyridine (200 ml.) at 0°-3° C. After addition was complete, the mixture was heated at 100° C. for 1 hour. After evaporation under reduced pressure, 2-(3-phenylacetamido-4-hydroxyphenyl)propionitrile was isolated as an oil.

reactant | Phenyl acetyl chloride | 28.0 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 2-(3-amino-4-hydroxyphenyl) propionitrile | 29.0 g | NC=1C=C(C=CC1O)C(C#N)C | C9H10N2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-phenylacetamido-4-hydroxyphenyl)propionitrile | C1(=CC=CC=C1)CC(=O)NC=1C=C(C=CC1O)C(C#N)C | C17H16N2O2
